US08313923B2
NADPH/G6PDH
A mixture of substrate (5 mM), oxidized cofactor NADP+ (10 μM), glucose 6-phosphate (20 mM) in 50 mM Tris buffer pH 7.5 (0.8 ml) was admixed with G6PDH (10 u), after the enzyme (100-200 μg) had been added, and the reaction was carried out at 30° C. (140 rpm) for 48 hours.

reactant | NADP+ | 10 μM | C1=CC(=C[N+](=C1)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)OC[C@@H]3[C@H]([C@H]([C@@H](O3)N4C=NC5=C4N=CN=C5N)OP(=O)(O)O)O)O)O)C(=O)N
reactant | glucose 6-phosphate | 20 mM | P(=O)(O)(O)OC[C@H]([C@H]([C@@H]([C@H](C=O)O)O)O)O | C6H13O9P
solvent | Tris | 50 mM, 0.8 ml, pH 7.5 | C(C(CO)(CO)N)O | C4H11NO3
product | NADPH | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)OP(=O)(O)O)N | C21H30N7O17P3
